US04826982
3-Chloro-4-fluoro-6-nitroaniline
A solution of N-(3-chloro-4-fluoro-6-nitrophenyl)acetamide (30 g) in concentrated hydrochloric acid (50 ml) and ethanol (200 ml) was refluxed for 2.5 hours. To the reaction mixture was added ice water (300 ml) and the resulting precipitate was collected by filtration, washed with water and dried to give the title compound (24.9 g) as yellow needles, mp 149.5°-150° C.

reactant | N-(3-chloro-4-fluoro-6-nitrophenyl)acetamide | 30 g | ClC=1C=C(C(=CC1F)[N+](=O)[O-])NC(C)=O | C8H6ClFN2O3
solvent | hydrochloric acid | 50 ml | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-Chloro-4-fluoro-6-nitroaniline | 24.9 g | ClC=1C=C(N)C(=CC1F)[N+](=O)[O-] | C6H4ClFN2O2
